US09284331B2
Step 2: 2-(4-(methoxymethyl)-1H-imidazol-1-yl)-9-(thiazol-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 71. To a degassed solution of 9-iodo-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (191 mg, 0.43 mmol) and 2-(tributylstannyl)thiazole (239 mg, 0.64 mmol) in dioxane (4 mL) was added Pd(PPh3)4 (25 mg, 0.021 mmol) and the mixture was heated in the microwave at 150° C. for 2 h. The solvent was removed under reduced pressure. The crude product was purified by flash-column chromatography over silicagel (Biotage Isolera Four, eluent: from 1% MeOH in DCM to 5% MeOH in DCM in 18 min) to yield the title compound (64 mg). UPLC-MS: MS 406.1 (M+H+); UPLC rt 0.81 min. 1H NMR (600 MHz, DMSO-d6): δ ppm 3.18-3.31 (m, 5 H), 3.78 (t, J=6.0 Hz, 2 H), 4.30 (s, 4 H), 7.18 (s, 1 H), 7.55 (t, J=7.9 Hz, 1 H), 7.67 (s, 1 H), 7.86 (d, J=7.7 Hz, 1 H), 7.93 (d, J=3.3 Hz, 1 H), 8.04 (d, J=3.3 Hz, 1 H), 8.13 (d, J=8.1 Hz, 1 H), 8.24 (s, 1 H).

reactant | 9-iodo-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.43 mmol, 191 mg | IC1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)COC | C18H17IN4O2
reactant | 2-(tributylstannyl)thiazole | 0.64 mmol, 239 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.021 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-(methoxymethyl)-1H-imidazol-1-yl)-9-(thiazol-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 64 mg | COCC=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C=2SC=CN2)=C1)=O | C21H19N5O2S
